US05834501
1-t-Butoxycarbonyl-2-hydroxymethylindoline
6.2 ml of di-t-butyl dicarbonate were added dropwise to a solution of 4.0 g of indolin-2-ylmethanol (prepared as described in Preparation 2) and 3.8 ml of triethylamine in 40 ml of anhydrous tetrahydrofuran, and the resulting mixture was stirred at room temperature for 10 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of s odium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 5.57 g of the title compound having Rf=0.46 (on silica gel thin layer chromatography using a 2:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | di-t-butyl dicarbonate | 6.2 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | indolin-2-ylmethanol | 4.0 g | N1C(CC2=CC=CC=C12)CO | C9H11NO
reactant | triethylamine | 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-t-Butoxycarbonyl-2-hydroxymethylindoline | 5.57 g | C(C)(C)(C)OC(=O)N1C(CC2=CC=CC=C12)CO | C14H19NO3
